US09193722B2
(R)-3-(6-(3-phenylpiperazin-1-yl)-3-(trifluoromethyl)pyridin-2-yl)-1H-pyrazolo[3,4-b]pyridine (Compound 53)
A mixture of 3-(6-bromo-2-pyridyl)-1-trityl-pyrazolo[5,4-b]pyridine (100 mg, 0.1933 mmol) and (2S)-2-phenylpiperazine (54.56 mg, 0.2320 mmol) in DME (2.500 mL) was treated with sodium t-butoxide (27.87 mg, 0.2900 mmol) followed by dicyclohexyl-[2-(o-tolyl)phenyl]phosphane (7.046 mg, 0.01933 mmol) and Palladium acetate (4.340 mg, 0.01933 mmol). The mixture was allowed to stir at 95 degrees in a sealed tube overnight. The mixture was allowed to cool, filtered through celite and concentrated to give a yellow oil. This was taken up in DCM (6 ml) and cooled to 0° C. Triethylsilane (0.12 mL) and TFA (1 mL) were added and the reaction stirred at 0° C. for 1 hour. The solvent was removed in vacuo and the residue purified by reverse phase preparative HPLC [Waters Sunfire C18, 10 uM, 100 A column, gradient 10%-95% B (solvent A: 0.05% TFA in water, solvent B: CH3CN) over 16 minutes at 25 mL/min]. The fractions were collected, passed through a sodium bicarbonate cartridge and freeze-dried to give the title compound as a white solid (20 mg, 29% Yield).

reactant | 3-(6-bromo-2-pyridyl)-1-trityl-pyrazolo[5,4-b]pyridine | 0.1933 mmol, 100 mg | BrC1=CC=CC(=N1)C1=NN(C2=NC=CC=C21)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C30H21BrN4
reactant | (2S)-2-phenylpiperazine | 0.2320 mmol, 54.56 mg | C1(=CC=CC=C1)[C@@H]1NCCNC1 | C10H14N2
reactant | sodium t-butoxide | 0.2900 mmol, 27.87 mg | CC(C)([O-])C.[Na+]
reactant | dicyclohexyl-[2-(o-tolyl)phenyl]phosphane | 0.01933 mmol, 7.046 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)C)C1CCCCC1 | C25H33P
reactant | Triethylsilane | 0.12 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DME | 2.500 mL | COCCOC | C4H10O2
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
catalyst | Palladium acetate | 0.01933 mmol, 4.340 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (R)-3-(6-(3-phenylpiperazin-1-yl)-3-(trifluoromethyl)pyridin-2-yl)-1H-pyrazolo[3,4-b]pyridine | 20 mg, 29% Yield | C1(=CC=CC=C1)[C@@H]1CN(CCN1)C1=CC=C(C(=N1)C1=NNC2=NC=CC=C21)C(F)(F)F | C22H19F3N6
